data/rdb19/train.csv
rxn,smiles,ea
5518,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6][H:11])[H:10])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],29.55179560597753
4391,[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[O:13][H:14]>>[C:1]([H:7])([H:8])([H:9])[O:13][H:14].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],52.82206188933924
2927,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])=[C:20]([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([H:8])([H:9])([H:10])[H:29].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],81.4158175860648
1482,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[O:14][C:15]([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],28.377380182559136
1584,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:15]([H:21])([H:22])[H:23],78.08453965972876
1916,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11][H:12]>>[H:6][O:11][H:12].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])[H:7],11.359728665993316
466,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][H:19])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])[H:18],27.843191894469783
345,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:9])[H:10].[O:1]([O:2][H:8])[H:3],24.61928069582791
4286,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],42.60574856342282
2634,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:25]([N:24]([C:22]([C:21]([C:20]([H:27])([H:28])[H:29])([H:30])[H:31])([C:23]([H:33])([H:34])[H:35])[H:32])[H:36])([O:26])[H:37])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],24.510882107366346
5104,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])[H:14])([H:11])([H:12])[H:13].[H:15][C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29],20.98051924217725
5519,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][H:25])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],42.36134049633984
